US05075464
To a solution of 9.1 g of 17-(cyclopropylimino)androst5-en-3β-ol in 200 ml of dry ethanol was added 2 g of sodium borohydride. The reaction mixture was stirred at room temperature for 3 hours and then 100 ml of solvent was removed from the mixture under reduced pressure The reaction mixture was then quenched with dilute acetic acid, diluted with 600 ml of water, and the pH was adjusted to 14 by the addition of sodium hydroxide. The aqueous mixture was extracted 3 times with 600 ml potions of ethyl acetate and the combined organic extracts were dried over magnesium sulfate. Removal of the solvent under reduced pressure gave the desired 17β-(cyclopropylamino)androst-5-en-3β-ol as a white solid; MS (m/z): 370 (M+41)+, 358 (M+29)+, 330(M+H)+, 312 (MH-H2O)+.

reactant | 17-(cyclopropylimino)androst5-en-3β-ol | 9.1 g | C1(CC1)N=C1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C[C@H](CC[C@]3(C)[C@H]1CC2)O | C22H33NO
reactant | sodium borohydride | 2 g | [BH4-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 17β-(cyclopropylamino)androst-5-en-3β-ol | C1(CC1)N[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C[C@H](CC[C@]3(C)[C@H]1CC2)O | C22H35NO
